US05015678
Bis[1-(2-methoxycarbonylethoxy)-2,2,6,6-tetramethylpiperidin-4-yl] Phthalate
A mixture of 25.0 grams (52.7 mmol) of bis(1-oxyl-2,2,6,6-tetramethylpiperidin-4-yl) phthalate, 10.0 grams of magnesium sulfate, 100 mg of 5% palladium on carbon, and 200 ml of tetrahydrofuran is hydrogenated (50 psi, ambient temperature) on a Parr apparatus. Solids are removed by filtration. The filtrate is cooled to 10° C. (under nitrogen atmosphere) and treated with 0.6 gram (5.3 mmol) of potassium tert-butoxide. Methyl acrylate (45.5 grams, 527 mmol) is added to the reaction mixture over a five-minute period. The reaction mixture is then stirred at ambient temperature for two hours, treated with another portion of 0.6 gram of potassium tert-butoxide and stirred overnight at ambient temperature. The reactions mixture is diluted with ether (300 ml), washed with 1N hydrochloric acid (2×200 ml), washed with saturated sodium bicarbonate solution (200 ml), dried over anhydrous magnesium sulfite and concentrated to an oil. The oil is purified by flash chromatography (silica gel; 4:1 hexane: ethyl acetate) to yield a solid which is recrystallized from methanol to afford 8.8 grams (26% yield) of the title compound as a white solid melting at 117°-118° C.

reactant | bis(1-oxyl-2,2,6,6-tetramethylpiperidin-4-yl) phthalate | 52.7 mmol, 25.0 grams | C(C=1C(C(=O)OC2CC(N(C(C2)(C)C)O)(C)C)=CC=CC1)(=O)OC1CC(N(C(C1)(C)C)O)(C)C | C26H40N2O6
reactant | magnesium sulfate | 10.0 grams | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | potassium tert-butoxide | 5.3 mmol, 0.6 gram | CC(C)([O-])C.[K+]
reactant | Methyl acrylate | 527 mmol, 45.5 grams | C(C=C)(=O)OC | C4H6O2
reactant | potassium tert-butoxide | 0.6 gram | CC(C)([O-])C.[K+]
reactant | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
catalyst | palladium on carbon | 100 mg | [Pd] | Pd
solvent | ether | 300 ml | CCOCC | C4H10O
product | Bis[1-(2-methoxycarbonylethoxy)-2,2,6,6-tetramethylpiperidin-4-yl] Phthalate | 8.8 grams, 26% yield | C(C=1C(C(=O)OC2CC(N(C(C2)(C)C)OCCC(=O)OC)(C)C)=CC=CC1)(=O)OC1CC(N(C(C1)(C)C)OCCC(=O)OC)(C)C | C34H52N2O10
